US07396844B1
Synthesis of methyl 2-acetamido-3-[2-[(2R)-3-ethoxycarbonyl-2-(4-cyanobenzoylamino)propoxy]-4-cyanophenyl]acrylate
1.28 g (2.27 mmol) of benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-(4-cyanobenzoylamino)butanoate, 975 mg (6.81 mmol) of methyl 2-acetamidoacrylate, 415 mg (1.36 mmol) of tris(2-methylphenyl)phosphine, 0.95 ml (6.81 mmol) of triethylamine and 0.5 ml of dimethylformamide were dissolved in 8.0 ml of acetonitrile. 56 mg (0.23 mmol) of palladium acetate was added to the solution at room temperature, and they were stirred at 90° C. for 12 hours. The solvent was distilled off, and the residue was purified by the silica gel column chromatography (volume ratio of chloroform:methanol=30:1) to obtain the title compound.

reactant | benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-(4-cyanobenzoylamino)butanoate | 2.27 mmol, 1.28 g | C(#N)C=1C=CC(=C(OC[C@@H](CC(=O)OCC2=CC=CC=C2)NC(C2=CC=C(C=C2)C#N)=O)C1)I | C26H20IN3O4
reactant | methyl 2-acetamidoacrylate | 6.81 mmol, 975 mg | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | tris(2-methylphenyl)phosphine | 1.36 mmol, 415 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | triethylamine | 6.81 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 8.0 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.23 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | methyl 2-acetamido-3-[2-[(2R)-3-ethoxycarbonyl-2-(4-cyanobenzoylamino)propoxy]-4-cyanophenyl]acrylate | C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OC[C@@H](CC(=O)OCC)NC(C1=CC=C(C=C1)C#N)=O | C27H26N4O7
